US05011962
About 1.9 ml of a 25% solution of phosphonitrile chloride in methylene chloride are added at room temperature with stirring to a mixture containing 486 g (3.0 mol) of hexamethyldisiloxane and 170 g (1.0 mol) of tetrachlorosilane. After the mixture has been stirred at room temperature for 8 hours, the catalyst is deactivated by adding 2.2 ml of tri-n-butylamine. Distillation of the reaction mixture at 18° to 34° C. and at 2 mbar gives 55 g of 3,3-dichlorohexamethyltrisiloxane, but no 3-chloro-3-trimethylsiloxyhexamethyltrisiloxane. Likewise the desired 3-chloro-3-trimethylsiloxyhexamethyltrisiloxane is neither found in the distillation residue (12 g) nor in the cold trap (583 g of a mixture of trimethylchlorosilane and 1,1,1-trichloro-3,3,3-trimethyldisiloxane).

reactant | hexamethyldisiloxane | 3.0 mol, 486 g | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | tetrachlorosilane | 1.0 mol, 170 g | Cl[Si](Cl)(Cl)Cl | Cl4Si
reactant | tri-n-butylamine | 2.2 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,3-dichlorohexamethyltrisiloxane | 55 g | Cl[Si](O[Si](C)(C)C)(O[Si](C)(C)C)Cl | C6H18Cl2O2Si3
